US07741326B2
4-(3-Benzyl-2-carbamoyl-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.25 gm, 0.556 mmol) was dissolved in 5 ml DMF and sodium hydride (60% in oil, 0.033 gm, 0.83 mmol) was added, resulting in formation of a precipitate. Methyl iodide (0.052 ml, 0.83 mmol) was added and the solid dissolved to give a clear solution. After one hour the mixture was concentrated under reduced pressure and the residue was purified by preparative thin layer chromatography (3/97 methanol/dichloromethane). One band was again purified (40/60, tetrahydrofuran/hexane) to give 4-(3-Benzyl-5-methyl-2-methylcarbamoyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester. A second band was recrystallized from acetonitrile to give 4-(3-Benzyl-2-dimethylcarbamoyl-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 4-(3-Benzyl-2-carbamoyl-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.556 mmol, 0.25 gm | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2C(=C(OC21)C(N)=O)CC2=CC=CC=C2)C | C26H31N3O4
reactant | sodium hydride | 0.83 mmol, 0.033 gm | [H-].[Na+]
reactant | Methyl iodide | 0.83 mmol, 0.052 ml | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(3-Benzyl-5-methyl-2-methylcarbamoyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2C(=C(OC21)C(NC)=O)CC2=CC=CC=C2)C | C27H33N3O4
